US08685980B2
Following General Method B, 6-chloro-pyridine-3-carbaldehyde (500 mg, 3.532 mmol) and 1-methylpiperazine-2-one hydrochloride (559 mg, 3.709 mmol) gave 4-(6-chloro-pyridin-3-ylmethyl)-1-methyl-piperazin-2-one (712 mg, 84%) [following SiO2 chromatography, eluting with 0-10% MeOH/dichloromethane]. MS (ESI) m/z 240.1 (M+H)+

reactant | 6-chloro-pyridine-3-carbaldehyde | 3.532 mmol, 500 mg | ClC1=CC=C(C=N1)C=O | C6H4ClNO
reactant | 1-methylpiperazine-2-one hydrochloride | 3.709 mmol, 559 mg | Cl.CN1C(CNCC1)=O
product | 4-(6-chloro-pyridin-3-ylmethyl)-1-methyl-piperazin-2-one | 712 mg | ClC1=CC=C(C=N1)CN1CC(N(CC1)C)=O | C11H14ClN3O
